* source BR0101_AD9715
X_U3         N14873 N15107 N14939 N14791 VON VON N14939 ADA4899 
V_V1         0 N14791 5V
R_R4         0 N15107  681 TC=0,0 
R_R1         0 N14729  681 TC=0,0 
R_R2         N14729 VOP  1.8k TC=0,0 
V_V3         N14643 0 1V
X_U2         N14873 N14729 N14939 N14791 VOP VOP N14939 ADA4899 
V_V2         N14939 0 5V
R_R3         N15107 VON  1.8k TC=0,0 
R_R5         N14873 N14643  10k TC=0,0 
I_I1         N14729 0 DC 0Adc AC 0Aac
+PULSE 0 2mA 0 0 0 1us 2us
I_I2         N15107 0 DC 0Adc AC 0Aac
+PULSE 2mA 0 0 0 0 1us 2us
.PARAM  x=1m
